US04042704
To a solution of 2 drops of 6N hydrochloric acid in 17 g. of dihydropyran is added 14.4 g. of β-naphthol under ice cooling. The resulting solution is stirred at 5° to 10° for 2 hours and then 5 g. of anhydrous sodium carbonate is added. After stirring at room temperature for 15 minutes, the resulting solids are filtered off and the filtrate is concentrated under reduced pressure to yield crude 2-tetrahydropyranyloxynaphthalene, suitable for use in the next step (2).

reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | hydrochloric acid | 6N, 2 drops | Cl | ClH
product | 2-tetrahydropyranyloxynaphthalene | O1C(CCCC1)OC1=CC2=CC=CC=C2C=C1 | C15H16O2
